US05563162
To a mixture of 2,6-dichloro-1-hydroxymethyl-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene (399 mg) and triethylamine (0.17 ml) in methylene chloride (8 ml) was added methanesulfonyl chloride (0.086 ml) under -20° C., and the mixture was stirred for 1 hour. The mixture was washed with sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo to give 2,6-dichloro-1-methylsulfonyloxymethyl-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene (561 mg)

reactant | 2,6-dichloro-1-hydroxymethyl-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene | 399 mg | ClC1=C(C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl)CO | C18H14Cl2N2O4
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.086 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-1-methylsulfonyloxymethyl-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene | 561 mg | ClC1=C(C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl)COS(=O)(=O)C | C19H16Cl2N2O6S
